US07148226B2
Preparation of Compound 4-Bromo-2-ethyl-6-fluoro-phenol
A solution of tetrabutyl ammonium tribromide (4.2 g, 8.6 mmol) in CHCl3 (25 mL) was added to a stirred solution of 2-ethyl-6-fluoro-phenol (1.1 g, 7.9 mmol) dissolved in CHCl3 (25 mL). The reaction mixture was stirred for 24 hrs and then quenched with 5% solution of sodium thiosulfate (30 mL). The biphasic mixture was stirred for 30 mins and then the layers were separated. The organic layer was washed with 1N HCl, saturated NaHCO3, brine, dried over Na2SO4 and concentrated. The crude residue was purified by flash column chromatography (0–10% EtOAc in hexanes) to give the desired product (1 g, 60%). 1H NMR (400 MHz, CDCl3): δ 1.21 (t, J=7.6 Hz, 3 H), 2.65 (q, J=7.6 Hz, 2 H), 5.09 (d, J=4.8 Hz, 1 H), 7.06 (s, 1 H), 7.09 (d, J=11.9 Hz, 1 H).

reactant | tetrabutyl ammonium tribromide | 8.6 mmol, 4.2 g | [Br-].[Br-].[Br-].C(CCC)[N+](CCCC)(CCCC)CCCC.C(CCC)[N+](CCCC)(CCCC)CCCC.C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | 2-ethyl-6-fluoro-phenol | 7.9 mmol, 1.1 g | C(C)C1=C(C(=CC=C1)F)O | C8H9FO
solvent | CHCl3 | 25 mL | C(Cl)(Cl)Cl | CHCl3
solvent | CHCl3 | 25 mL | C(Cl)(Cl)Cl | CHCl3
product | 4-Bromo-2-ethyl-6-fluoro-phenol | 1 g, 60% | BrC1=CC(=C(C(=C1)F)O)CC | C8H8BrFO
